US06787560B2
2-(4-tert-Butoxycarbonylaminophenyl)ethanol
Under ice-cooling, di-tert-butyl dicarbonate (9.55 g, 43.8 mmol) was added in small portions to a solution consisting of 2-(4-aminophenyl)ethanol (2.00 g, 14.6 mmol), 1,4-dioxane (20 ml) and a 1N-aqueous sodium hydroxide solution (40 ml), and then the reaction mixture was stirred for 16 hours while heating the reaction mixture gradually to room temperature. Water (200 ml) and diethyl ether (200 ml) were added thereto to effect separation, and the aqueous layer was extracted with diethyl ether. The combined extract layer was washed with water and then a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to obtain the title compound (2.89 g, 84%) as a white solid.

reactant | di-tert-butyl dicarbonate | 43.8 mmol, 9.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(4-aminophenyl)ethanol | 14.6 mmol, 2.00 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | Water | 200 ml | O | H2O
product | 2-(4-tert-Butoxycarbonylaminophenyl)ethanol | 2.89 g, 84% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCO | C13H19NO3
